US06599925B2
To a mixture of 2-cyclopentyl-1-[2-(6-methoxy-2-naphthyl)-1-benzofuran-3-yl]-1-ethanol (1.84 g, 4.77 mmol) in methylene chloride (50 mL) cooled in an ice bath was added triethylsilane (1.5 mL, 9.5 mmol). Trifluoroacetic acid (3.7 mL, 48 mmol) was then added drop-wise. The reaction mixture was stirred at room temperature for 1 hour, then concentrated. The residue was partitioned in ethyl acetate and sodium bicarbonate solution. The organic phase was washed with water, brine, dried over anhydrous magnesium sulfate, filtered and concentrated. Purification by flash chromatography (Biotage apparatus) using 100% hexane as an eluant afforded 3-(2-cyclopentylethyl)-2-(6-methoxy-2-naphthyl)-1-benzofuran as a light beige wax (1.05 g). 1HNMR (200 MHz, DMSO-d6): δ8.25 (s, 1H), 7.95 (d, 2H, J=7.7 Hz), 7.85 (d, 1H. J=7.7 Hz), 7.55-7.75 (m, 2H), 7.2-7.4 (m, 4H), 3.9 (s, 3H), 2.95-3.05 (m, 2H), 1.4-2.0 (br m, 9H), and 1.1-1.3 ppm (br m, 2H).

reactant | 2-cyclopentyl-1-[2-(6-methoxy-2-naphthyl)-1-benzofuran-3-yl]-1-ethanol | 4.77 mmol, 1.84 g | C1(CCCC1)CC(O)C1=C(OC2=C1C=CC=C2)C2=CC1=CC=C(C=C1C=C2)OC | C26H26O3
reactant | triethylsilane | 9.5 mmol, 1.5 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | Trifluoroacetic acid | 48 mmol, 3.7 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 3-(2-cyclopentylethyl)-2-(6-methoxy-2-naphthyl)-1-benzofuran | C1(CCCC1)CCC1=C(OC2=C1C=CC=C2)C2=CC1=CC=C(C=C1C=C2)OC | C26H26O2
